US04831055
Sodium 4-[2-(4-chlorobenzamido)ethoxy]benzoate
4-[2-(4-Chlorobenzamido)ethoxy]benzoic acid (3.19 g) was dissolved in 50 ml of methanol. A solution of 0.40 g of sodium hydroxide in 5 ml of water was added to the above methanolic solution, the mixture was concentrated in vacuo, the crystallised residue was recrystallised from methanol, and 2.30 g of crystalline product was obtained. M.p. not lower than 300° C.

reactant | 4-[2-(4-Chlorobenzamido)ethoxy]benzoic acid | 3.19 g | ClC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)O)C=C2)C=C1 | C16H14ClNO4
reactant | sodium hydroxide | 0.40 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | Sodium 4-[2-(4-chlorobenzamido)ethoxy]benzoate | 2.30 g | ClC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)[O-])C=C2)C=C1.[Na+] | InChI=1S/C16H14ClNO4.Na/c17-13-5-1-11(2-6-13)15(19)18-9-10-22-14-7-3-12(4-8-14)16(20)21;/h1-8H,9-10H2,(H,18,19)(H,20,21);/q;+1/p-1
